US06498165B1
Step D: 2-Ethylsulfonyl-4-(benzimidazol-1-yl)-5-methylpyrimidine
To a solution of 2-Ethylthio-4-(benzimidazol-1-yl)-5-methylpyrimidine (127.5 mg, 0.47 mmol) in methanol (1.2 mmol) at 0° C. was added slurry of potassium peroxymonosulfate (Oxone®) (870 mg, 1.41 mmol) in H2O (1.2 mL). The mixture was stirred at room temperature for 4 h, and was then diluted with H2O. The aqueous layer was extracted with CH2Cl2, and the combined organic layer was washed with H2O followed by brine. The organic extract was dried over Na2SO4 then purified (20 mg of crude material) by preparative thin layer chromatography eluting with 1:1 acetone:hexane system to give the title compound. Mass spectrum 303 (ESI, M+1).

reactant | 2-Ethylthio-4-(benzimidazol-1-yl)-5-methylpyrimidine | 0.47 mmol, 127.5 mg | C(C)SC1=NC=C(C(=N1)N1C=NC2=C1C=CC=C2)C | C14H14N4S
reactant | methanol | 1.2 mmol | CO | CH4O
reactant | potassium peroxymonosulfate | 1.41 mmol, 870 mg | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | H2O | 1.2 mL | O | H2O
product | 2-Ethylsulfonyl-4-(benzimidazol-1-yl)-5-methylpyrimidine | C(C)S(=O)(=O)C1=NC=C(C(=N1)N1C=NC2=C1C=CC=C2)C | C14H14N4O2S
